US05614520
720 mg of 3-Thiocarbamoylbenzoic acid was suspended in 10 ml of dioxane, 720 mg of ethyl 2-chloroacetoacetate was added thereto, and the mixture was heated at 90° C. for 18 hours. After the reaction mixture was cooled, the resulting crystal was collected from the suspension by filtration and recrystallized from 20 ml of ethanol and a small amount of water to give 735 mg of ethyl 2-(3-carboxyphenyl)-4-methyl-5-thiazolecarboxylate (yield: 63%). 290 mg of the crystal was dissolved in 5 ml of 1N sodium hydroxide, and the mixture was heated at 60° C. for one hour. After the completion of the reaction, the reaction mixture was neutralized with 1N hydrochloric acid. The resulting crystal was collected by filtration and recrystallized from a 80% aqueous ethanol solution to give 258 mg of 2-(3-carboxyphenyl)-4-methyl-5-thiazolecarboxylic acid (yield: 83%).

reactant | 3-Thiocarbamoylbenzoic acid | 720 mg | C(N)(=S)C=1C=C(C(=O)O)C=CC1 | C8H7NO2S
reactant | ethyl 2-chloroacetoacetate | 720 mg | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | ethyl 2-(3-carboxyphenyl)-4-methyl-5-thiazolecarboxylate | 735 mg, yield: 63% | C(=O)(O)C=1C=C(C=CC1)C=1SC(=C(N1)C)C(=O)OCC | C14H13NO4S
